US07547680B2
2-(3-Hydroxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole (0.21 g) and 3-hydroxy-4-phenylbenzylamine (0.19 g) were suspended in isobutanol (5 mL). To the mixture was added triethylamine (0.36 mL), and the mixture was stirred for reflux for 16 hours. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: methanol/ethyl acetate=1/20) to give the title compound (0.1 g).

reactant | 2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole | 0.21 g | ClC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C=CC=C2 | C12H13ClN2O4
reactant | 3-hydroxy-4-phenylbenzylamine | 0.19 g | OC=1C=C(CN)C=CC1C1=CC=CC=C1 | C13H13NO
reactant | triethylamine | 0.36 mL | C(C)N(CC)CC | C6H15N
solvent | isobutanol | 5 mL | C(C(C)C)O | C4H10O
product | 2-(3-Hydroxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole | 0.1 g | OC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1C1=CC=CC=C1 | C25H25N3O5
